US08486996B2
5-Chloro-2-(2-ethoxybenzoyloxy)-ω-bromoacetophenone
Bromine (0.6 g, 3.7 mmol) is added dropwise to a solution of 5-chloro-2-(2-ethoxybenzoyloxy)-acetophenone (1.19 g, 3.7 mmol) in dry diethyl ether (30 ml) at room temperature. The mixture is stirred for an additional hour. The reaction mixture is washed with brine and dried over sodium sulfate. The solvent is removed under reduced pressure to give the title compound in pure form.

reactant | Bromine | 3.7 mmol, 0.6 g | BrBr | Br2
reactant | 5-chloro-2-(2-ethoxybenzoyloxy)-acetophenone | 3.7 mmol, 1.19 g | ClC=1C=CC(=C(C(=O)OCC(=O)C2=CC=CC=C2)C1)OCC | C17H15ClO4
solvent | diethyl ether | 30 ml | C(C)OCC | C4H10O
product | 5-Chloro-2-(2-ethoxybenzoyloxy)-ω-bromoacetophenone | ClC=1C=CC(=C(C(=O)OC(C(=O)C2=CC=CC=C2)Br)C1)OCC | C17H14BrClO4
